US07186831B2
A mixture of 1000 mg of ethyl N-(2,2,2-trifluoro-1-methylethyl)-N-methylcarbamate, 20 ml of ethanol and 20 ml of water is admixed with 1070 mg of powdered potassium hydroxide and the mixture is stirred at 40° C. for 66 hours. The reaction mixture is then diluted with water and extracted with three times 20 ml of a mixture consisting of equal parts of methylene chloride and diethyl ether. The combined organic phases are dried over sodium sulphate and then concentrated under slightly reduced pressure at room temperature. The solution obtained is admixed with ethereal hydrochloric acid, with ice cooling, and is stirred at room temperature for 60 hours. Concentration under reduced pressure gives 280 mg of N-(2,2,2-trifluoro-1-methylethyl)-N-methylamine hydrochloride. The yield was calculated accordingly to be 34% of theory.

reactant | ethyl N-(2,2,2-trifluoro-1-methylethyl)-N-methylcarbamate | 1000 mg | FC(C(C)N(C(OCC)=O)C)(F)F | C7H12F3NO2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 1070 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | N-(2,2,2-trifluoro-1-methylethyl)-N-methylamine hydrochloride | 280 mg | Cl.FC(C(C)NC)(F)F | InChI=1S/C4H8F3N.ClH/c1-3(8-2)4(5,6)7;/h3,8H,1-2H3;1H
